Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
TOTAL VAGINAL HYSTERECTOMY WITH RIGHT SALPINGO-OOPHORECTOMY, 
BILATERAL UTEROSACRAL LIGAMENTS VAULT SUSPENSION, ANTERIOR 
COLPORRHAPHY, PERINEORRHAPHY AND CYSTOSCOPY  

 
History of Present Illness:
Mrs. ___ is a ___ gravida 7 para ___ who 
presented in the office for consultation requested by Dr. 
___ vaginal prolapse and urinary incontinence in 
___. At the time, the patient had a ___ year history of 
vaginal pressure and palpable prolapse that had been worsening 
gradually.  She denied any vaginal bleeding but admits to a 
change in her urinary habits.  She was experiencing urinary 
hesitancy and an interrupted
flow.  She admitted to worsening prolapse when she is coughing 
or
standing.  She had to "splint" to initiate her void.

She admitted to mixed incontinence episodes with urgency> 
stress. She ___ voiding ___ times per day and 2 times per 
night.  She used ___ pads per day due to incontinence (mostly 
urgency).  She denied any recent urinary tract infection. Mrs. 
___ admitted to occasional constipation that responds
usually to dietary modification.  She is not currently sexually 
active and denies any dyspareunia.

She had been fitted for a pessary in ___ but continued 
to have bothersome symptoms of prolapse and urgency. She elected 
for definitive management.
 
Past Medical History:
DYSPEPSIA                                                       
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
OSTEOPOROSIS                                                    
PRE-DIABETES                                                    
ILLITERATE                                                      
ADVANCE CARE PLANNING                                           
H/O HELICOBACTER PYLORI                                         

PAST SURGICAL HISTORY

Cataract surgery

PAST OB HISTORY
___
Vaginal: 6

PAST GYN HISTORY
She is postmenopausal and denies any episodes of postmenopausal
bleeding.
 
Social History:
Country of Origin:  CV                                          
Marital status:     Widowed                                     
Children:           Yes: 7 children, one passed away            
Lives with:         Alone                                       
Work: ___
Sexual activity:    Denies                                      
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Tobacco use:        Never smoker                                
Tobacco Use         No                                          
Comments:                                                       
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Depression comments:0                                           
Exercise:           None                                        
Seat belt/vehicle   Always                                      
restraint use:         
 
Family History:
Her family history is unremarkable for Breast, Ovarian or Colon
cancer.
 
Physical Exam:
Vtials: stable and within normal limits
General: NAD, tired
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended,nontender
GU: pad with no spotting (vaginal packing removed , <50%
saturated with serosanguinous fluid), foley draining clear urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally
 
Pertinent Results:
___ 08:40AM BLOOD WBC-6.0 RBC-4.57 Hgb-12.2 Hct-39.1 MCV-86 
MCH-26.7 MCHC-31.2* RDW-14.0 RDWSD-44.5 Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing TOTAL VAGINAL HYSTERECTOMY WITH RIGHT 
SALPINGO-OOPHORECTOMY, BILATERAL UTEROSACRAL LIGAMENTS VAULT 
SUSPENSION, ANTERIOR COLPORRHAPHY, PERINEORRHAPHY AND 
CYSTOSCOPY. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV morphine and toradol.

On post-operative day 1, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to oral 
tramadol, ibuprofen, and acetaminophen

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
ATORVASTATIN - atorvastatin 40 mg tablet. 1 tablet(s) by mouth
once a day at bedtime
CALCIUM CARBONATE-VITAMIN D3 - calcium carbonate 600 mg (1,500
mg)-vitamin D3 400 unit tablet. TAKE 1 TABLET BY MOUTH TWICE
DAILY
LOSARTAN - losartan 100 mg tablet. TAKE 1 TABLET BY MOUTH DAILY
NIFEDIPINE - nifedipine ER 30 mg tablet,extended release. 1
tablet(s) by mouth once a day
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. 1 Tablet(s) by 
mouth
three times a day as needed for pain also called TYLENOL
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*1 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
take with food 
RX *ibuprofen [IBU] 400 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*1 
4.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth once a day Disp #*3 Capsule Refills:*0 
5.  TraMADol 25 mg PO Q6H:PRN pain 
may cause sedation. do not drink alcohol or drive while taking 
tramadol 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
6.  Atorvastatin 40 mg PO QPM  
7.  Losartan Potassium 100 mg PO DAILY  
8.  NIFEdipine (Extended Release) 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina at least until your post-op appointment
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ for 
catheter removal.

 
Followup Instructions:
___